US07678802B2
2-Amino-5-trifluoromethyl-benzoic acid.
4-(trifluoromethyl)aniline (25 g, 0.15 mol) was dissolved in THF (275 mL), then treated with Boc anhydride (41 g, 0.19 mol), ET3N (19 g, 0.19 mol), and 4-(dimethylamino)pyridine (0.1 g, 0.8 mmol). The mixture was refluxed for 3 hours, the solvents removed in vacuo, and the organic residue dissolved in EtOAc, washed with 1 M NaOH, then 1 M HCl, then dried and concentrated. The resulting product was recrystallized from heptane yielding 39 g final product as a white solid. The solid (0.15 mol) was dissolved in THF (350 mL) and cooled to −78° C. under nitrogen, then treated dropwise with BuLi (1.6 M in hexane, 282 mL, 0.45 mol). After 1 h, the solution was warmed to 0° C. and held for 1.5 h. The mixture was poured onto excess solid CO2 and stirred overnight at RT. After partitioning against 1 M HCl, the THF layer was evaporated and the residue dissolved in EtOAc, washed with 1 M HCl, then dried and concentrated. The solid product was triturated with hexan to yield the final product as a white solid (15.8 g). LC/MS retention time 2.70 min, m/z (obs, M−H)=304.1. Finally the Boc anthranilate (11.3 g) was dissolved in CH2CL2 (26 mL) and treated with TFA (21 mL). After stirring at RT for 2 h, the solution was dried in vacuo, the resulting residue dissolved in toluene (100 mL), concentrated to dryness, and the dissolution/drying process repeated twice more, yielding the desired product as a white solid (10.8 g), LC/MS retention time 1.2 min, m/z (obs, M−H)=204.0.

reactant | Boc anthranilate | 11.3 g | C(C=1C(N)=CC=CC1)(=O)OC(=O)OC(C)(C)C | C12H15NO4
reactant | TFA | 21 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 2-Amino-5-trifluoromethyl-benzoic acid | 10.8 g | NC1=C(C(=O)O)C=C(C=C1)C(F)(F)F | C8H6F3NO2
